US08022223B2
Step A: Preparation of (6-(4-methylthiazol-2-ylamino)-5-(phenylthio)Pyridin-3-yl)(tetrahydro-2H-pyran-4-yl)methanol hydrochloride:
A 10 mL round-bottomed flask was charged with 5-bromo-N-(4-methylthiazol-2-yl)-3-(phenylthio)pyridin-2-amine (250 mg, 0.661 mmol), THF (6 mL) and cooled to −78° C. and methyllithium (0.496 mL, 0.793 mmol) was added. The reaction was stirred for 5 minutes and butyllithium (0.317 mL, 0.793 mmol) was added. The reaction was stirred for 10 minutes and tetrahydro-2H-pyran-4-carbaldehyde (151 mg, 1.32 mmol) was added. The reaction was warmed to ambient temperature and poured into saturated aqueous NH4Cl and extracted with EtOAc (2×20 mL). The organic layer was dried with sodium sulfate, filtered and concentrated. The residue was purified on silica gel (50% EtOAc in hexanes) to afford the title compound (217 mg, 73.0% yield) after HCl salt formation.

reactant | 5-bromo-N-(4-methylthiazol-2-yl)-3-(phenylthio)pyridin-2-amine | 0.661 mmol, 250 mg | BrC=1C=C(C(=NC1)NC=1SC=C(N1)C)SC1=CC=CC=C1 | C15H12BrN3S2
reactant | methyllithium | 0.793 mmol, 0.496 mL | C[Li]
reactant | butyllithium | 0.793 mmol, 0.317 mL | C(CCC)[Li]
reactant | tetrahydro-2H-pyran-4-carbaldehyde | 1.32 mmol, 151 mg | O1CCC(CC1)C=O | C6H10O2
reactant | NH4Cl | [NH4+].[Cl-]
reactant | HCl | Cl | ClH
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | (6-(4-methylthiazol-2-ylamino)-5-(phenylthio)Pyridin-3-yl)(tetrahydro-2H-pyran-4-yl)methanol hydrochloride | 217 mg, 73.0% yield | Cl.CC=1N=C(SC1)NC1=C(C=C(C=N1)C(O)C1CCOCC1)SC1=CC=CC=C1 | InChI=1S/C21H23N3O2S2.ClH/c1-14-13-27-21(23-14)24-20-18(28-17-5-3-2-4-6-17)11-16(12-22-20)19(25)15-7-9-26-10-8-15;/h2-6,11-13,15,19,25H,7-10H2,1H3,(H,22,23,24);1H
